US05371064
Phenol (2.26 g) was added to a mixture of 4-chloro-3-fluoro-2-methylsulphonylbenzoic acid (4.46 g) and lithium hydroxide monohydrate (1.65 g) in N,N-dimethylformamide and the mixture was stirred and heated at 100° C. overnight. It was cooled, poured into water and acidified to pH 1, extracted with ethyl acetate and the organic phase extracted into aqueous sodium bicarbonate solution. The aqueous layer was acidified to pH 1 and extracted with ethyl acetate, washed with water, dried (magnesium sulphate) and filtered. The filtrate was evaporated to dryness to give 4-chloro-2-methylsulphonyl-3-phenoxybenzoic acid (4.06 g) as an off-white solid m.p. 231°-235° C.

reactant | Phenol | 2.26 g | C1(=CC=CC=C1)O | C6H6O
reactant | 4-chloro-3-fluoro-2-methylsulphonylbenzoic acid | 4.46 g | ClC1=C(C(=C(C(=O)O)C=C1)S(=O)(=O)C)F | C8H6ClFO4S
reactant | lithium hydroxide monohydrate | 1.65 g | O.[OH-].[Li+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-chloro-2-methylsulphonyl-3-phenoxybenzoic acid | 4.06 g | ClC1=C(C(=C(C(=O)O)C=C1)S(=O)(=O)C)OC1=CC=CC=C1 | C14H11ClO5S
